US07790728B2
N-[6-(1,3-Oxazol-2-yl)-5-pyridin-4-ylpyrazin-2-yl]cyclopropanecarboxamide
(1,3-Oxazol-2-yl)zinc chloride (0.33M in THF, 9.3 mL, 3.06 mmol) was added to a solution of N-(6-chloro-5-pyridin-4-ylpyrazin-2-yl)cyclopropanecarboxamide (Preparation 8, 280 mg, 1.02 mmol) in THF (2 mL) and the mixture was degassed Pd(PPh3)4 (118 mg, 0.102 mmol, 10 mol %) was added and degassing was repeated. The reaction mixture was heated to 90° C. in a sealed tube and stirred overnight. The mixture was cooled and more (1,3-oxazol-2-yl)zinc chloride (0.33M, 5.0 mL, 1.65 mmol) and Pd(PPh3)4 (90 mg, 8 mol %) were added and the mixture was degassed and heated to 90° C. overnight. The reaction mixture was cooled and concentrated. The residue was purified by flash silica gel chromatography (dichloromethane/methanol 98:2) to give the title compound (80 mg, 26%) as a pale yellow solid.

reactant | (1,3-Oxazol-2-yl)zinc chloride | 3.06 mmol, 0.33M, 9.3 mL | [Cl-].O1C(=NC=C1)[Zn+]
reactant | N-(6-chloro-5-pyridin-4-ylpyrazin-2-yl)cyclopropanecarboxamide | 1.02 mmol, 280 mg | ClC1=C(N=CC(=N1)NC(=O)C1CC1)C1=CC=NC=C1 | C13H11ClN4O
reactant | (1,3-oxazol-2-yl)zinc chloride | 1.65 mmol, 0.33M, 5.0 mL | [Cl-].O1C(=NC=C1)[Zn+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 0.102 mmol, 118 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Pd(PPh3)4 | 90 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[6-(1,3-Oxazol-2-yl)-5-pyridin-4-ylpyrazin-2-yl]cyclopropanecarboxamide | 80 mg, 26% | O1C(=NC=C1)C1=C(N=CC(=N1)NC(=O)C1CC1)C1=CC=NC=C1 | C16H13N5O2
